US06573293B2
5-(5-Chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrole-2-carboxylic Acid
A mixture of 5-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (1.3 g, 4 mmol) and potassium hydroxide in methanol (25 mL) and ethanol (25 mL) was heated to reflux for overnight. Insoluble materials were removed by filtration and the mixture was neutralized with 6N hydrochloric acid to give 0.876 g (70%) of the title compound.

reactant | 5-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 4 mmol, 1.3 g | C(C)OC(=O)C=1NC(=C(C1)C)C=C1C(NC2=CC=C(C=C12)Cl)=O | C17H15ClN2O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 25 mL | CO | CH4O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-(5-Chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrole-2-carboxylic Acid | 0.876 g, 70% | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=C(N1)C(=O)O)C | C15H11ClN2O3
